datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(CC(c1ccccc1)c1ccccc1)[N:10]1CCCCC1.Cc1cc(C#N)cc(C)[n+]1[O:21][H:20]>>CC(CC(c1ccccc1)c1ccccc1)[N+:10]1([H:20])CCCCC1.Cc1cc(C#N)cc(C)[n+]1[O-:21] 10=20;20,21=21",
"CCC(C)[NH:10]c1ccccc1.C[NH+](C)CCC[N+:21](=C(c1ccccc1)c1ccccc1Cl)[H:20]>>CCC(C)[NH+:10](c1ccccc1)[H:20].C[NH+](C)CCC[N:21]=C(c1ccccc1)c1ccccc1Cl 10=20;20,21=21",
"CC(C#N)C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C#N)C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Cc1cc(C2(c3ccc([O:21][H:20])c(C)c3)OS(=O)(=O)c3c(Br)c(Br)c(Br)c(Br)c32)ccc1O.O=C([O-])CCC(C(=O)[O-])[NH2:10]>>Cc1cc(C2(c3ccc([O-:21])c(C)c3)OS(=O)(=O)c3c(Br)c(Br)c(Br)c(Br)c32)ccc1O.O=C([O-])CCC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)[NH2:10].CCC1(CC)OC(=O)[N:21]([H:20])C1=O>>CC(C)[NH2+:10][H:20].CCC1(CC)OC(=O)[N-:21]C1=O 10=20;20,21=21",
"CC[NH:10]C[Si](C)(C)C.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CC[NH+:10](C[Si](C)(C)C)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)NCc1cc(C)cc(CNC(C)=O)c1[O:21][H:20].O=C(N[NH2:10])c1ccncc1>>CC(=O)NCc1cc(C)cc(CNC(C)=O)c1[O-:21].O=C(N[NH2+:10][H:20])c1ccncc1 10=20;20,21=21",
"CCCCCCCCCCCC[NH2+]CCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCCCCCCCCCCC[NH2+]CCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Cc1ncc(CO)c(C[NH2:10])c1[O-]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Cc1ncc(CO)c(C[NH2+:10][H:20])c1[O-] 10=20;20,21=21",
"Cc1cc2cccc(O)c2[n:10]c1.O=C(CC[NH2+:21][H:20])NC(Cc1cnc[nH]1)C(=O)[O-]>>Cc1cc2cccc(O)c2[n+:10]([H:20])c1.O=C(CC[NH2:21])NC(Cc1cnc[nH]1)C(=O)[O-] 10=20;20,21=21",
"CC(C)CC([NH3+])C(=O)[O:21][H:20].[NH3+]CCC(=O)[O-:10]>>CC(C)CC([NH3+])C(=O)[O-:21].[NH3+]CCC(=O)[O:10][H:20] 10=20;20,21=21",
"CCCCCCCCCCCC[N+:21](CC(C)O)(CC(C)O)[H:20].[S-]c1cnc2cncnc2[n:10]1>>CCCCCCCCCCCC[N:21](CC(C)O)CC(C)O.[S-]c1cnc2cncnc2[n+:10]1[H:20] 10=20;20,21=21",
"O=C([O-])CCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])CCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(O)C[NH:10]CC[NH3+].O=C(C1Cc2ccccc2O1)[O:21][H:20]>>CC(O)C[NH+:10](CC[NH3+])[H:20].O=C(C1Cc2ccccc2O1)[O-:21] 10=20;20,21=21",
"C[C@]1([NH3+])C[C@]1(C)[NH2:10].O=[N+]([O-])c1ccc([NH2+:21][H:20])cc1F>>C[C@]1([NH3+])C[C@]1(C)[NH2+:10][H:20].O=[N+]([O-])c1ccc([NH2:21])cc1F 10=20;20,21=21",
"CNc1ccc(S(=O)(=O)[N:21](c2nc(C)cs2)[H:20])cc1.Cn1c[n:10]c2ccccc21>>CNc1ccc(S(=O)(=O)[N-:21]c2nc(C)cs2)cc1.Cn1c[n+:10]([H:20])c2ccccc21 10=20;20,21=21",
"Nc1cc([O-:10])ccc1O.OCCCc1ccc[n+:21]([H:20])c1>>Nc1cc([O:10][H:20])ccc1O.OCCCc1ccc[n:21]c1 10=20;20,21=21",
"O=C1Oc2c3c(cc(O)c2[O-:10])C(=O)Oc2c(O)c(O)cc1c2-3.c1cc[n+]2oc([NH:21][H:20])nc2c1>>O=C1Oc2c3c(cc(O)c2[O:10][H:20])C(=O)Oc2c(O)c(O)cc1c2-3.c1cc[n+]2oc([NH-:21])nc2c1 10=20;20,21=21",
"NC(=O)[N:21](c1ccc([N+](=O)[O-])cc1)[H:20].c1ccc([O-:10])c(C2CCNCCNCCCNCCN2)c1>>NC(=O)[N-:21]c1ccc([N+](=O)[O-])cc1.c1ccc([O:10][H:20])c(C2CCNCCNCCCNCCN2)c1 10=20;20,21=21",
"O=C(c1cccc(Cl)c1)[O:21][H:20].c1c2c(cc3c1[nH]c[n:10]3)CCCC2>>O=C(c1cccc(Cl)c1)[O-:21].c1c2c(cc3c1[nH]c[n+:10]3[H:20])CCCC2 10=20;20,21=21",
"C=C(C)C(C)=C(C)[O-:10].CC1=Nc2ccccc2N(C)/C1=[O+:21]\[H:20]>>C=C(C)C(C)=C(C)[O:10][H:20].CC1=Nc2ccccc2N(C)C1=[O:21] 10=20;20,21=21",
"CN(C)C=[N+:21](c1ccccc1O)[H:20].O=C1C(Cc2ccccc2)=C([O-:10])C(=O)c2ccccc21>>CN(C)C=[N:21]c1ccccc1O.O=C1C(Cc2ccccc2)=C([O:10][H:20])C(=O)c2ccccc21 10=20;20,21=21",
"COC(=O)CSC(C)[O-:10].C[C:21](C1=CC=C([N+](=O)[O-])C=C1)([N+](=O)[O-])[H:20]>>COC(=O)CSC(C)[O:10][H:20].C[C-:21](C1=CC=C([N+](=O)[O-])C=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(CCCC[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(CCCC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC[NH+](CC)CC[N:10]=C(c1ccccc1C)c1ccccc1C.C[N+:21](C)(c1ccc(C#N)cc1)[H:20]>>CC[NH+](CC)CC[N+:10](=C(c1ccccc1C)c1ccccc1C)[H:20].C[N:21](C)c1ccc(C#N)cc1 10=20;20,21=21",
"O=C([O-])C1CCCC[NH+:21]1[H:20].[NH3+]CCc1ccc([O-:10])cc1>>O=C([O-])C1CCCC[NH:21]1.[NH3+]CCc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"C=C(C)[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(N)=O.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C=C(C)[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(N)=O.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC1(C)[C@H]2CC[C@@]1(C)[C@@H](O)[C@@H]2C(=O)[O-:10].O=C(C1CC1(Cl)Cl)[O:21][H:20]>>CC1(C)[C@H]2CC[C@@]1(C)[C@@H](O)[C@@H]2C(=O)[O:10][H:20].O=C(C1CC1(Cl)Cl)[O-:21] 10=20;20,21=21",
"CC(C)(O)[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[H:20]>>CC(C)(O)[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"CC[N+:21](CC)(c1ccc(C)cc1)[H:20].O=C(Cn1ccc2ccccc21)[O-:10]>>CC[N:21](CC)c1ccc(C)cc1.O=C(Cn1ccc2ccccc21)[O:10][H:20] 10=20;20,21=21",
